US06512136B1
A solution of 20 g (82.64 mmol) of O-benzylvanillin in 200 mL of dry tetrahydrofuran was slowly added to a stirred solution of benzyl magnesium chloride (103.30 mmol) in 150 mL of diethylether at 10° C. over 20 min, and the reaction mixture was then boiled for 10 min, cooled, quenched with a mixture of ice and dilute hydrochloric acid and evaporated at reduced pressure. The residue was dissolved in dichloromethane, the solution washed with brine, dried with sodium sulphate and the solvent was evaporated under reduced pressure leaving a crystalline residue that was recrystallised from diethylether and petroleum ether. 1-(4-Benzyloxy-3-methoxyphenyl)-2-phenyl-1-ethanol was obtained as white crystals, m.p. 97 to 98° C.

reactant | O-benzylvanillin | 82.64 mmol, 20 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | benzyl magnesium chloride | 103.30 mmol | C(C1=CC=CC=C1)[Mg]Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
product | 1-(4-Benzyloxy-3-methoxyphenyl)-2-phenyl-1-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC1=CC=CC=C1)O)OC | C22H22O3
